US04760087
(a) 1-[3',4'-Bis-(tetrahydropyranyl-2"-oxy)-phenyl]-8-bromo-oct-1-yne
To a solution of 3.33 g of 3,4-bis-(tetrahydropyranyl-2'-oxy)-phenylacetylene in 20 ml of absolute tetrahydrofuran were added dropwise over 45 minutes at -78° to -70° C., while stirring in an atmosphere of dry nitrogen, 6.9 ml of n-butyllithium solution, and after one hour stirring at the same temperature 5.1 ml of 1,6-dibromohexane followed by 7 ml of absolute 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone were added dropwise. The mixture was stirred for 20 hours, allowed to warm to 0° C. and then worked up as described in Example 5e. By column chromatography with toluene/diisopropyl ether (10:1) 3.55 g of the title compound were obtained.

reactant | n-butyllithium | 6.9 ml | C(CCC)[Li]
reactant | 1,6-dibromohexane | 5.1 ml | BrCCCCCCBr | C6H12Br2
reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 7 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | toluene diisopropyl ether | 3.55 g | C1(=CC=CC=C1)C.C(C)(C)OC(C)C | InChI=1S/C7H8.C6H14O/c1-7-5-3-2-4-6-7;1-5(2)7-6(3)4/h2-6H,1H3;5-6H,1-4H3
